US04625032
610 mg of methyl (3S)-8-methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate are dissolved in 20 ml of methanol, and 2 ml of a 10% aqueous sodium hydroxide solution are added thereto. The mixture is stirred at room temperature for 3 hours. One ml of a 10% aqueous sodium hydroxide solution and 228 mg of carbon disulfide are added to the mixture, and the mixture is stirred at room temperature for 30 minutes. Then, 355 mg of methyl iodide are adde to the mixture, and the mixture is stirred at the same temperature for 2.5 hours. After the reaction, the mixture is evaporated to remove the solvent. The residue is dissolved in water, and the aqueous solution is extracted with ethyl acetate. The aqueous layer is acidified with 10% HCl, and then extracted with ethyl acetate. The extract is washed with water, dried and then evaporated to remove the solvent. A mixture of ether and n-hexane is added to the residue, and the precipitates are collected. 200 mg of (3S)-8 -methyl-2-(methylthio)thiocarbonyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid are obtained as white powder.

reactant | methyl (3S)-8-methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 610 mg | CC=1C=CC=C2C=3C[C@H](NCC3NC12)C(=O)OC | C14H16N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | carbon disulfide | 228 mg | C(=S)=S | CS2
reactant | methyl iodide | 355 mg | CI | CH3I
solvent | methanol | 20 ml | CO | CH4O
product | (3S)-8 -methyl-2-(methylthio)thiocarbonyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 200 mg | CC=1C=CC=C2C=3C[C@H](N(CC3NC12)C(=S)SC)C(=O)O | C15H16N2O2S2
